US07812028B2
a) 5-Bromo-3-(4-chloro-phenyl)-pyrazin-2-ylamine
To a solution of 2.5 g of 3,5-dibromo-pyrazin-2-ylamine in 60 ml 1,2-dimethoxy-ethane is added 1.19 g tetrakis(triphenylphosphine) palladium at room temperature and stirred for ½ hour. To the resulting orange solution is added a solution of 2.65 g sodium carbonate in 30.0 mL water and 1.56 g of p-chlorophenylboronic acid and the mixture is stirred for 18 hours at 100° C. The starting material is completely consumed as evidenced by tlc. The reaction mixture was partitioned between water and ethyl acetate; the phases are separated and the organic phase is dried over sodium sulfate evaporated and purified by chromatography on silica gel with heptane:ethyl acetate=1:1. to yield 2.37 g of the title compound as light yellow crystals, MS (ISP) 284.0, 286.0 (M+H)+.

reactant | 3,5-dibromo-pyrazin-2-ylamine | 2.5 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | sodium carbonate | 2.65 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | p-chlorophenylboronic acid | 1.56 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
solvent | 1,2-dimethoxy-ethane | 60 ml | COCCOC | C4H10O2
solvent | water | 30.0 mL | O | H2O
catalyst | tetrakis(triphenylphosphine) palladium | 1.19 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 5-Bromo-3-(4-chloro-phenyl)-pyrazin-2-ylamine | 2.37 g | BrC=1N=C(C(=NC1)N)C1=CC=C(C=C1)Cl | C10H7BrClN3
